US07947851B2
Step b) Formation of (4-{[(4-[(4-butylphenyl)ethynyl]benzyl}(2-thienylsulfonyl)amino]-methyl}phenoxy)acetic acid
To a solution of methyl (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(2-thienylsulfonyl)amino]-methyl}phenoxy)acetate (30 mg, 0.051 mmol) in MeOH/THF (4 ml, (1/1)) was added an aqueous solution of NaOH (2 mL, 1N). The reaction mixture was stirred at rt for 2 hrs. Then an aqueous solution of HCl (9 mL, 1N) was added and extracted with Et2O (2×10 mL). The combined organic layers were dried over Na2SO4 and the solvents were removed under reduced pressure to give 30 mg (97%) of the title compound as a green oil. HPLC, Rt: 5.3 min (purity: 95.3%). LC/MS, M+(ESI): 574.2, M−(ESI): 572.3. 1H NMR (CDCl3) δ: 7.60 (m, 2H), 7.44 (d, J=8.3 Hz, 2H), 7.38 (d, J=7.9 Hz, 2H), 7.17 (d, J=7.9 Hz, 2H), 7.12 (m, 1H), 7.05 (m, 4H), 6.80 (d, J=8.7 Hz, 2H), 4.66 (s, 2H), 4.33 (s, 2H), 4.31 (s, 2H), 2.63 (t, J=7.5 Hz, 2H), 1.61 (m, 2H), 1.37 (m, 2E), 0.94 (t, J=7.4 Hz, 3H).

reactant | methyl (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(2-thienylsulfonyl)amino]-methyl}phenoxy)acetate | 0.051 mmol, 30 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(S(=O)(=O)C=2SC=CC2)CC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C33H33NO5S2
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
reactant | HCl | 1N, 9 mL | Cl | ClH
solvent | MeOH THF | 4 ml | CO.C1CCOC1
product | (4-{[(4-[(4-butylphenyl)ethynyl]benzyl}(2-thienylsulfonyl)amino]-methyl}phenoxy)acetic acid | 30 mg, 97% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(S(=O)(=O)C=2SC=CC2)CC2=CC=C(OCC(=O)O)C=C2)C=C1 | C32H31NO5S2
